US04167570
6,11-Dihydro-11-(3-diisopropylamino-propyl)-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one by method A
A mixture consisting of 4.5 gm of 6,11-dihyrdo-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 60 ml of dimethyl formamide and 1.27 gm of 50% sodium hydride in mineral oil was stirred at 90° C. for 1 hour. Thereafter, 4.6 gm of 3-diisopropylamino-propyl chloride were added dropwise and the mixture was stirred at 120° C. for 2 hours. The reaction solution was then evaporated in vacuo, and the residue was dissolved in a mixture of ether and dilute ammonia. The organic phase was separated, dried over sodium sulfate and evaporated. The oily residue was distilled, and the fraction passing over between 189°-193° C. at 0.13 mm Hg was recrystallized from petroleum ether, yielding 31% of theory of the compound named in the heading, which had a melting point of 118°-119° C.

reactant | 6,11-dihyrdo-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 4.5 gm | CC=1C=CC2=C(NC3=C(N(C2=O)C)C=CC=C3)N1 | C14H13N3O
reactant | sodium hydride | 1.27 gm | [H-].[Na+]
reactant | 3-diisopropylamino-propyl chloride | 4.6 gm | C(C)(C)N(CCCCl)C(C)C | C9H20ClN
solvent | dimethyl formamide | 60 ml | CN(C=O)C | C3H7NO
product | 6,11-Dihydro-11-(3-diisopropylamino-propyl)-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | C(C)(C)N(CCCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=CC(=N2)C)C(C)C | C23H32N4O
